US06492406B1
a) 1-(3-Bromopropyl)-indole-3-carboxylic acid methyl ester
In a flask was dissolved indole-3-carboxylic acid methyl ester (2.0 g, 11.4 mmole) and 1,3-dibromopropane (11.5 g, 57 mmol) in 15 mL of DMF. To this solution was added cesium carbonate (5.5 g, 17 mmol). The flask was sealed and the content was stirred at 40° C. overnight. The solution was then partitioned between ether and water. The ethereal phase was washed twice with water and once with brine and was finally evaporated. The residue was purified on silica (heptane-ethyl acetate 4:1), to give 2.2 g (75%) of the sub-title compound.

reactant | indole-3-carboxylic acid methyl ester | 11.4 mmole, 2.0 g | COC(=O)C1=CNC2=CC=CC=C12 | C10H9NO2
reactant | 1,3-dibromopropane | 57 mmol, 11.5 g | BrCCCBr | C3H6Br2
reactant | cesium carbonate | 17 mmol, 5.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(3-Bromopropyl)-indole-3-carboxylic acid methyl ester | 2.2 g, 75% | COC(=O)C1=CN(C2=CC=CC=C12)CCCBr | C13H14BrNO2
